US08802779B2
(1) Synthesis of (3-tert-butyl-5-methyl-cyclopentadienyl)(2,7-di-tert-butyl-fluorenyl)diphenylmethane
A 200-ml three-necked flask equipped with a magnetic stirring bar and a three-way cock was sufficiently purged with nitrogen, and then 2.53 g (9.10 mmol) of 2,7-di-tert-butylfluorene was dissolved in 70 ml of dehydrated diethyl ether under a nitrogen atmosphere. To this solution was added 6.4 ml of a hexane solution of n-butyllithium (1.56 M: 9.98 mmol) gradually dropwise in an ice bath, and the resultant solution was stirred overnight at room temperature. To the reaction solution was added a solution prepared by dissolving 3.01 g (10.0 mmol) of 3-tert-butyl-1-methyl-6,6-diphenylfulvene in 40 ml of dehydrated diethyl ether, and the solution was stirred under reflux for 7 days. The reaction mixture was poured into 100 ml of hydrochloric acid (1 N), diethyl ether was added to separate an organic layer, and the organic layer was washed with saturated sodium hydrogen carbonate aqueous solution and saturated brine and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to obtain a reddish-brown liquid, which was purified with column chromatography using 180 g of silica gel (developing solvent: n-hexane). The developing solvent was distilled off under reduced pressure, and the residue was recrystallized from methanol and dried under reduced pressure to yield 1.65 g (2.85 mmol) of the target compound as pale yellow solid (Yield: 31%).

reactant | 2,7-di-tert-butylfluorene | 9.10 mmol, 2.53 g | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
reactant | n-butyllithium | 9.98 mmol, 1.56 M | C(CCC)[Li]
reactant | 3-tert-butyl-1-methyl-6,6-diphenylfulvene | 10.0 mmol, 3.01 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | hexane | 6.4 ml | CCCCCC | C6H14
product | (3-tert-butyl-5-methyl-cyclopentadienyl)(2,7-di-tert-butyl-fluorenyl)diphenylmethane | 2.85 mmol, 1.65 g, Yield: 31% | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=C(C=CC=2C3=CC=C(C=C3CC12)C(C)(C)C)C(C)(C)C | C44H50
